### PR TITLE
feat(ErdosProblems): 1092

### LINKED ISSUE #1291: Erdős Problem 1092
### What is the conjecture

https://www.erdosproblems.com/1092

  Let $f_r(n)$ be maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$ vertices is the union of a graph with chromatic number $r$ and a graph with $\leq f_r(m)$ edges, then $G$ has chromatic number $\leq r+1$.Is it true that $f_2(n) \gg n$? More generally, is $f_r(n)\gg_r n$?

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by ayush31010**
Closes #1291

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1092.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+open Classical
+open SimpleGraph
+open Finset
+
+/--
+Asymptotic domination: `f ≫ g` means `g n / f n → 0`.
+This is the standard Erdős-style notation.
+-/
+def dominates (f g : ℕ → ℕ) : Prop :=
+  tendsto (fun n => (g n : ℝ) / (f n : ℝ)) atTop (nhds 0)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: Can you please just use `g =o[atTop] f`?

File: FormalConjectures/ErdosProblems/1092.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
...
+      ∀ G : SimpleGraph (Fin n),
+        (∀ H : Subgraph G,
+          let m := H.verts.toFinset.card
+          ∃ H₁ H₂ : Subgraph H.coe,
+            chromaticNumber H₁.coe ≤ r ∧
+            H₂.edgeSet.toFinset.card ≤ f r m) →
+        chromaticNumber G ≤ r + 1) ∧
+    dominates (fun n => f 2 n) (fun n => n) ∧
+    (∀ r, dominates (fun n => f r n) (fun n => r * n)))
+  ↔ answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: Can you please define `f` separately using `sSup`?

File: FormalConjectures/ErdosProblems/1092.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+
+open Classical
+open SimpleGraph
+open Finset
+open Asymptotics
+open Filter
+
+/--
+The function `f : ℕ → ℕ → ℕ` with the Erdős 1092 properties.
+Defined as the supremum over all functions satisfying the chromatic number decomposition property.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
$f_r(n)$ is maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$
vertices is the union of a graph with chromatic number $r$ and a graph with $\leq f_r(m)$ edges,
then $G$ has chromatic number $\leq r+1$.
```

File: FormalConjectures/ErdosProblems/1092.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+        (∀ H : Subgraph G,
+          let m := H.verts.toFinset.card
+          ∃ H₁ H₂ : Subgraph H.coe,
+            chromaticNumber H₁.coe ≤ (r : ℕ∞) ∧
+            H₂.edgeSet.toFinset.card ≤ f r m) →
+        chromaticNumber G ≤ (r + 1 : ℕ∞)) ∧
+    (fun (n : ℕ) => (n : ℝ)) =o[atTop] (fun (n : ℕ) => (f 2 n : ℝ)) ∧
+    (∀ (r : ℕ), (fun (n : ℕ) => (r * n : ℝ)) =o[atTop] (fun (n : ℕ) => (f r n : ℝ))))
+  ↔ answer(sorry) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: Can you split these into several statements?

Comment (ayushdebnath012) [reply FormalConjectures/ErdosProblems/1092.lean]: Done

File: FormalConjectures/ErdosProblems/1092.lean [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+1. a graph of chromatic number at most `r`, and
+2. a graph with at most `f r m` edges,
+
+then `G` has chromatic number at most `r + 1`.
+
+Erdős asked whether:
+* `f 2 n ≫ n`
+* more generally, `f r n ≫ r * n`
+
+This problem is currently open.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
Let $f_r(n)$ be maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$
vertices is the union of a graph with chromatic number $r$ and a graph with $\leq f_r(m)$ edges,
then $G$ has chromatic number $\leq r+1$.

Erdős asked whether:
* `f 2 n ≫ n`
* more generally, `f r n ≫ r * n`

This problem is currently open.

*Reference:* https://www.erdosproblems.com/1092
```

File: FormalConjectures/ErdosProblems/1092.lean [hunk 6]
```diff
@@ -0,0 +1,99 @@
...
+  (∀ H : Subgraph G,
+    let m := H.verts.toFinset.card
+    ∃ H₁ H₂ : Subgraph H.coe,
+      chromaticNumber H₁.coe ≤ (r : ℕ∞) ∧
+      H₂.edgeSet.toFinset.card ≤ f r m) →
+  chromaticNumber G ≤ (r + 1 : ℕ∞) := by
+  sorry
+
+@[category research open, AMS 5]
+theorem f_asymptotic_2 :
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
theorem f_asymptotic_2 : answer(sorry) \iff
```
same below, since they are formulated as questions

File: FormalConjectures/ErdosProblems/1092.lean [hunk 7]
```diff
@@ -0,0 +1,94 @@
...
+noncomputable def f : ℕ → ℕ → ℕ :=
+  sSup {g : ℕ → ℕ → ℕ |
+    ∀ (r : ℕ) (n : ℕ),
+      ∀ G : SimpleGraph (Fin n),
+        (∀ H : Subgraph G,
+          let m := H.verts.toFinset.card
+          ∃ H₁ H₂ : Subgraph H.coe,
+            chromaticNumber H₁.coe ≤ (r : ℕ∞) ∧
+            H₂.edgeSet.toFinset.card ≤ g r m) →
+        chromaticNumber G ≤ (r + 1 : ℕ∞)}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: Although technically correct, taking suprema of functions looks a bit nonsense. Could you define `f r n := sSup ...` instead?

File: FormalConjectures/ErdosProblems/1092.lean [hunk 8]
```diff
@@ -0,0 +1,94 @@
...
+open Classical
+open SimpleGraph
+open Finset
+open Asymptotics
+open Filter
+
+/--
+$f_r(n)$ is maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$
+vertices is the union of a graph with chromatic number $r$ and a graph with $\leq f_r(m)$ edges,
+then $G$ has chromatic number $\leq r+1$.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: Could you restate this as
```suggestion
$f_r(n)$ is maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$
vertices has chromatic number $\leq r+1$ once we remove $f_r(m)$ edges from it.
```
? and in the lean too

File: FormalConjectures/ErdosProblems/1092.lean [hunk 9]
```diff
@@ -0,0 +1,94 @@
...
+* If every subgraph of a graph `G` can be decomposed into an `r`-colorable part
+  and a sparse remainder with at most `f r m` edges,
+  then `G` has chromatic number at most `r + 1`.
+* Moreover, `(fun n => n) =o[atTop] (fun n => f 2 n)`.
+* More generally, `∀ r, (fun n => r * n) =o[atTop] (fun n => f r n)`.
+-/
+
+
+@[category research open, AMS 5]
+theorem f_nonneg : ∀ r n, 0 ≤ f r n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: I don't believe you! 😆 
```suggestion
@[category API, AMS 5]
theorem f_nonneg : ∀ r n, 0 ≤ f r n := by
```

File: FormalConjectures/ErdosProblems/1092.lean [hunk 10]
```diff
@@ -0,0 +1,94 @@
...
+
+@[category research open, AMS 5]
+theorem f_decomposition_property (r n : ℕ) (G : SimpleGraph (Fin n)) :
+  (∀ H : Subgraph G,
+    let m := H.verts.toFinset.card
+    ∃ H₁ H₂ : Subgraph H.coe,
+      chromaticNumber H₁.coe ≤ (r : ℕ∞) ∧
+      H₂.edgeSet.toFinset.card ≤ f r m) →
+  chromaticNumber G ≤ (r + 1 : ℕ∞) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]: I don't see the point of these two statements

**Comment by ayushdebnath012** [comment]
@YaelDillies done

File: FormalConjectures/ErdosProblems/1092.lean [hunk 11]
```diff
@@ -0,0 +1,70 @@
...
+
+open Classical
+open SimpleGraph
+open Finset
+open Asymptotics
+open Filter
+
+/--
+$f_r(n)$ is maximal such that, if a graph $G$ has the property that every subgraph $H$ on $m$
+vertices has chromatic number $\leq r+1$ once we remove $f_r(m)$ edges from it.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
$f_r(n)$ is maximal such that, if a graph $G$ on $n$ vertices has the property that every
subgraph $H$ on $m$ vertices has chromatic number $\leq r+1$ once we remove $f_r(m)$ edges
from it.
```

File: FormalConjectures/ErdosProblems/1092.lean [hunk 12]
```diff
@@ -0,0 +1,70 @@
...
+      (∀ H : Subgraph G,
+        let m := H.verts.toFinset.card
+        ∃ E : Finset (Sym2 H.verts),
+          E.card ≤ k ∧
+          chromaticNumber (H.coe.deleteEdges E) ≤ (r + 1 : ℕ∞)) →
+      chromaticNumber G ≤ (r + 1 : ℕ∞)}
+
+@[category API, AMS 5]
+theorem f_nonneg : ∀ r n, 0 ≤ f r n := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
```
There is a one-lemma proof

File: FormalConjectures/ErdosProblems/1092.lean [hunk 13]
```diff
@@ -0,0 +1,70 @@
...
+
+@[category research open, AMS 5]
+theorem f_asymptotic_2 : answer(sorry) ↔
+  (fun (n : ℕ) => (n : ℝ)) =o[atTop] (fun (n : ℕ) => (f 2 n : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
    (fun (n : ℕ) => (n : ℝ)) =o[atTop] (fun (n : ℕ) => (f 2 n : ℝ)) := by
```

File: FormalConjectures/ErdosProblems/1092.lean [hunk 14]
```diff
@@ -0,0 +1,70 @@
...
+  sorry
+
+@[category research open, AMS 5]
+theorem f_asymptotic_general :
+  answer(sorry) ↔ ∀ (r : ℕ), (fun (n : ℕ) => (r * n : ℝ)) =o[atTop] (fun (n : ℕ) => (f r n : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1092.lean]:
```suggestion
    answer(sorry) ↔ ∀ r, (fun n : ℕ => (r * n : ℝ)) =o[atTop] (fun n : ℕ => (f r n : ℝ)) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
